US03931177
Ethyl 3-(3,4-dimethoxybenzoyl)propionate was demethylated with boron tribromide in dichloromethane at -80°C to give ethyl 3-(3,4-dihydroxybenzoyl)propionate, m.p. 116°-117°C.

reactant | Ethyl 3-(3,4-dimethoxybenzoyl)propionate | COC=1C=C(C(=O)CCC(=O)OCC)C=CC1OC | C14H18O5
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(3,4-dihydroxybenzoyl)propionate | OC=1C=C(C(=O)CCC(=O)OCC)C=CC1O | C12H14O5
